US09056859B2
To a solution of DMSO (11 g, 138 mmol) in 100 mL of DCM was added Tf2O (42 g, 149 mmol) at −70° C. The resulting mixture was stirred at −70° C. for 15 minutes then a solution of 5-bromopyrazin-2-amine (20 g, 115 mmol, in 100 mL of DCM and 50 mL of DMSO) was added dropwise. The mixture was stirred at −60° C. for 3 hours and diluted with 500 mL of DCM and washed with water. The water layer was basified to pH=11 with aq. Na2CO3 and extracted with DCM twice. The combined DCM layer was washed with brine, dried over Na2SO4 and evaporated to afford 2-bromo-5-[(dimethyl-λ4-sulfanylidene)amino]pyrazine. 1H-NMR (CDCl3, 400 MHz) δ 7.89 (s, 1H), 7.78 (s, 1H), 2.72 (s, 6H).

reactant | DMSO | 138 mmol, 11 g | CS(=O)C | C2H6OS
reactant | Tf2O | 149 mmol, 42 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 5-bromopyrazin-2-amine | 115 mmol, 100 mL, 20 g | BrC=1N=CC(=NC1)N | C4H4BrN3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-5-[(dimethyl-λ4-sulfanylidene)amino]pyrazine | BrC1=NC=C(N=C1)N=S(C)C | C6H8BrN3S
